US06013764
Z-Lys(Z)-Leu-Leu-OMe
4-Methylmorpholine (1.26 g, 12.5 mmol) and HOBt (1.69 g, 12.5 mmol) were added to a solution of H-Leu-Leu-OMe·HCl (4.04 g, 13.75 mmol) in ethyl acetate (160.0 g) and DMF (36.0 g) over 15 min. Z-Lys(Z)-OH (5.18 g, 12.5 mmol) was added to this stirred mixture over 15 min. A solution of DCC (3.10 g, 12.5 mmol) in ethyl acetate (10.0 g) was added dropwise at 18-20° C. over 30 min. The reaction mixture was stirred at 18-20° C. for 16 h and filtered. The filter cake was washed with ethyl acetate (100.0 g) and the combined filtrate was washed with aqueous NaHCO3. The resulting organic layer was washed with aqueous NaCl and concentrated under reduced pressure. The residue was dissolved in MeOH (80.0 g) at about 50° C. Water (160 g) was slowly added and the mixture was stirred for about 1 h at 20° C. The resulting solid was filtered, washed with H2O (80.0 g) and dried at 40° C. in a vacuum oven to give 8.16 g, 99.6% of the product Z-Lys(Z)-Leu-Leu-OMe.

reactant | 4-Methylmorpholine | 12.5 mmol, 1.26 g | CN1CCOCC1 | C5H11NO
reactant | HOBt | 12.5 mmol, 1.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Leu-Leu-OMe·HCl | 13.75 mmol, 4.04 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC.Cl
reactant | Z-Lys(Z)-OH | 12.5 mmol, 5.18 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H26N2O6
reactant | DCC | 12.5 mmol, 3.10 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | ethyl acetate | 160.0 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10.0 g | C(C)(=O)OCC | C4H8O2
solvent | DMF | 36.0 g | CN(C)C=O | C3H7NO
product | Z-Lys(Z)-Leu-Leu-OMe | 8.16 g, 99.6% | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H50N4O8
